US06143764
(4-Chlorophenyl){4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}methanone [37]
4-Chloro-6,7-dimethoxyquinoline (112 mg) and commercially available 4-chlorophenyl 4-hydroxyphenyl ketone (349 mg) were mixed and stirred at 180° C. for 20 minutes. The reaction mixture was purified by thin layer chromatography on silica gel eluting with chloroform/ethyl acetate (5/1) to obtain 26 mg of the title compound (yield: 12%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 112 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 4-chlorophenyl 4-hydroxyphenyl ketone | 349 mg | OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Cl | C13H9ClO2
product | (4-Chlorophenyl){4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}methanone | 26 mg, yield: 12% | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H18ClNO4
